US07696210B2
4-Bromomethyl-1-fluoro-2-nitro-benzene
(4-Fluoro-3-nitro-phenyl)-methanol (100 mg, 0.58 mmol) was dissolved in toluene (1 ml) under nitrogen. PBr3 (225 mg, 0.83 mmol) was added and the reaction was allowed to stir at room temperature. The solvent was removed under vacuum. The reaction mixture was partitioned between ethyl acetate and brine. The organic layer was washed with brine two additional times, dried over MgSO4, and the solvent removed to yield the title product as a yellow oil (110 mg (81%), 0.47 mmol). 1H NMR (DMSO-d6): δ=8.04 (s, 1H), 7.68 (d, J=7.5 Hz, 1H), 7.38 (d, J=7.5 Hz, 1H), 3.85 (d, J=4.5 Hz, 2H).

reactant | (4-Fluoro-3-nitro-phenyl)-methanol | 0.58 mmol, 100 mg | FC1=C(C=C(C=C1)CO)[N+](=O)[O-] | C7H6FNO3
reactant | PBr3 | 0.83 mmol, 225 mg | P(Br)(Br)Br | Br3P
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Bromomethyl-1-fluoro-2-nitro-benzene | 0.47 mmol, 110 mg, 81% | BrCC1=CC(=C(C=C1)F)[N+](=O)[O-] | C7H5BrFNO2
